US07432299B2
4-(3-Fluoro-benzyl)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-(2-isopropyl-5-methyl-cyclohexyl) ester
4-(3-Fluoro-benzylidene)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-(2-isopropyl-5-methyl-cyclohexyl) ester (1.20 g,2.61 mmol) was dissolved in ethyl acetate:toluene (1:1, 12 ml). The solution was submitted to hydrogenation on platinum oxide (120 mg, 10% by weight) at 25 ° C. and 15 psi for 1 hour. The reaction mixture was filtered through arbocel and the filtrate reduced under pressure. The residue was purified by flashmaster chromatography eluting with heptane:ethyl actetate (15:1) to yield the title compound as a colourless oil (1.11 g, 91%).

reactant | 4-(3-Fluoro-benzylidene)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-(2-isopropyl-5-methyl-cyclohexyl) ester | 2.61 mmol, 1.20 g | C(C)(C)C1C(CC(CC1)C)OC(=O)C1N(CC(C1)=CC1=CC(=CC=C1)F)C(=O)OC(C)(C)C | C27H38FNO4
solvent | ethyl acetate toluene | 12 ml | C(C)(=O)OCC.C1(=CC=CC=C1)C
product | 4-(3-Fluoro-benzyl)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-(2-isopropyl-5-methyl-cyclohexyl) ester | 1.11 g, 91% | C(C)(C)C1C(CC(CC1)C)OC(=O)C1N(CC(C1)CC1=CC(=CC=C1)F)C(=O)OC(C)(C)C | C27H40FNO4
